US07897631B2
4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride (0.096 (0.061 mmol) was reacted with 3-azidomethyl thiophene (0.102 g, 0.732 mmol) following the general procedure for click reactions outlined above to produce 4-(1-Thiophen-3-ylmethyl-1H-[1,2,3]triazol-4-ylmethyl)-1Himidazol-2-ylamine hydrochloride (0.079 g, 44%) of a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ 8.18 (s, 1H), δ 7.44 (s, 1H), δ7.30 (d, 1H), δ 6.98 (d, 1H), δ 6.53 (s, 1H), δ 5.57 (s, 2H), δ 3.95 (s, 2H) ppm; 13C (75 MHz, CD3OD) δ 145.7, 145.1, 143.7, 139.7, 129.8, 121.8, 111.5, 109.8, 109.2, 52.7, 21.5 ppm; HRMS (ESI) calcd for C11H12N6S (M+) 260.0919. found 260.0919.

reactant | 4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride | Cl.C(C#C)C=1N=C(NC1)N
reactant | 3-azidomethyl thiophene | 0.732 mmol, 0.102 g | N(=[N+]=[N-])CC1=CSC=C1 | C5H5N3S
product | 4-(1-Thiophen-3-ylmethyl-1H-[1,2,3]triazol-4-ylmethyl)-1Himidazol-2-ylamine hydrochloride | 0.079 g, 44% | Cl.S1C=C(C=C1)CN1N=NC(=C1)CC=1N=C(NC1)N | InChI=1S/C11H12N6S.ClH/c12-11-13-4-9(14-11)3-10-6-17(16-15-10)5-8-1-2-18-7-8;/h1-2,4,6-7H,3,5H2,(H3,12,13,14);1H
